US07851473B2
N-(3,4-Dimethylisoxazol-5-yl)-4-{4-[3-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate (154 mg, 0.536 mmol), 1-[4-(3-trifluoromethylphenyl)-1,3-thiazol-2-yl]piperazine (150 mg, 0.487 mmol) and diisopropylethylamine (0.170 ml, 0.974 mmol) in dimethyl sulfoxide (2.0 ml) was stirred at 70° C. for 15 hours. Water was poured to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1), and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 94.8 mg (43.1%) of the desired product as a solid. mp 230-231° C.

reactant | 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate | 0.536 mmol, 154 mg | CC1=NOC(=C1C)NC(OCC(Cl)(Cl)Cl)=O | C8H9Cl3N2O3
reactant | 1-[4-(3-trifluoromethylphenyl)-1,3-thiazol-2-yl]piperazine | 0.487 mmol, 150 mg | FC(C=1C=C(C=CC1)C=1N=C(SC1)N1CCNCC1)(F)F | C14H14F3N3S
reactant | diisopropylethylamine | 0.974 mmol, 0.170 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.0 ml | CS(=O)C | C2H6OS
product | N-(3,4-Dimethylisoxazol-5-yl)-4-{4-[3-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}piperazine-1-carboxamide | 94.8 mg, 43.1% | CC1=NOC(=C1C)NC(=O)N1CCN(CC1)C=1SC=C(N1)C1=CC(=CC=C1)C(F)(F)F | C20H20F3N5O2S
